US06784137B2
Methyl 4-amino-3-chloro-6-(3,4-dimethylphenyl)pyridine-2-carboxlate (0.9 g, 0.003 mol) was heated at reflux in methanol (50 mL) and 1N sodium hydroxide (75 mL) for two hours. The reaction mixture was partially concentrated and then acidified with concentrated hydrochloric acid. The solid was collected and dried to give 4-amino-3-chloro-6-(3,4-dimethylphenyl)-pyridine-2-carboxylic acid (0.85 g, 0.003 mol), mp 192-4° C.

reactant | Methyl 4-amino-3-chloro-6-(3,4-dimethylphenyl)pyridine-2-carboxlate | 0.003 mol, 0.9 g | NC1=C(C(=NC(=C1)C1=CC(=C(C=C1)C)C)C(=O)OC)Cl | C15H15ClN2O2
reactant | sodium hydroxide | 1N, 75 mL | [OH-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | 4-amino-3-chloro-6-(3,4-dimethylphenyl)-pyridine-2-carboxylic acid | 0.003 mol, 0.85 g | NC1=C(C(=NC(=C1)C1=CC(=C(C=C1)C)C)C(=O)O)Cl | C14H13ClN2O2
